US06995269B2
Step 3. Preparation of trans-2-phenylcyclohexylisocyanate.
To a solution of 2-phenylcyclohexylamine (2.28 mmol) in methanol was added HCl (4.0 M in dioxane, 0.57 mL). The solution was concentrated and treated with phosgene solution (20% in toluene, 16.0 mL). The reaction was heated at 110° C. overnight and concentrated in vacuo.

reactant | 2-phenylcyclohexylamine | 2.28 mmol | C1(=CC=CC=C1)C1C(CCCC1)N | C12H17N
reactant | HCl | 4.0 M, 0.57 mL | Cl | ClH
reactant | methanol | CO | CH4O
product | trans-2-phenylcyclohexylisocyanate | C1(=CC=CC=C1)[C@H]1[C@@H](CCCC1)N=C=O | C13H15NO
